US07402585B2
{3-[(7-{2-[1-(2-tert-butoxyethyl)piperidin-4-yl]ethoxy}-6-methoxyquinazolin-4-yl)amino]-1H-pyrazol-5-yl}acetic acid (210 mg, 0.4 mmol) in dimethylformamide (2.1 ml) was reacted with 3-fluoroaniline (58 mg, 0.52 mmol) in the presence of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (107 mg, 0.56 mmol) and 2-hydroxypyridine-1-oxide (53 mg, 0.48 mmol) at 55° C. for 1.5 hours. The reaction mixture was cooled, diluted with dichloromethane (7 ml) and purified by chromatography on silica gel. Elution with dichloromethane:methanol (9:1) and increased polarity to dichloromethane:methanol:ammonia (9:1:0.1) yielded 2-{3-[(7-{2-[1-(2-tert-butoxyethyl)piperidin-4-yl]ethoxy}-6-methoxyquinazolin-4-yl)amino]-1H-pyrazol-5-yl}-N-(3-fluorophenyl)acetamide (162 mg, 65% yield) as a light pink solid:

reactant | {3-[(7-{2-[1-(2-tert-butoxyethyl)piperidin-4-yl]ethoxy}-6-methoxyquinazolin-4-yl)amino]-1H-pyrazol-5-yl}acetic acid | 0.4 mmol, 210 mg | C(C)(C)(C)OCCN1CCC(CC1)CCOC1=C(C=C2C(=NC=NC2=C1)NC1=NNC(=C1)CC(=O)O)OC | C27H38N6O5
reactant | 3-fluoroaniline | 0.52 mmol, 58 mg | FC=1C=C(N)C=CC1 | C6H6FN
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.56 mmol, 107 mg | Cl.CN(CCCN=C=NCC)C
reactant | 2-hydroxypyridine-1-oxide | 0.48 mmol, 53 mg | OC1=[N+](C=CC=C1)[O-] | C5H5NO2
solvent | dimethylformamide | 2.1 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 7 ml | ClCCl | CH2Cl2
product | 2-{3-[(7-{2-[1-(2-tert-butoxyethyl)piperidin-4-yl]ethoxy}-6-methoxyquinazolin-4-yl)amino]-1H-pyrazol-5-yl}-N-(3-fluorophenyl)acetamide | 162 mg, 65% yield | C(C)(C)(C)OCCN1CCC(CC1)CCOC1=C(C=C2C(=NC=NC2=C1)NC1=NNC(=C1)CC(=O)NC1=CC(=CC=C1)F)OC | C33H42FN7O4
